US09301526B2
Synthesis of 2-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-1-{[2-(trifluoromethyl)benzoyl]amino}ethyl acetate (Ia-112)
0.16 g of N-{2-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]ethylidene}-2-(trifluoromethyl)benzamide (Int-6) were diluted in 2 mL of acetic acid. The reaction mixture was stirred for two days at room temperature and then heated to 90° C. for one day and left at room temperature for four days. After concentration in vacuo, the crude product was purified by chromatography on silica gel to yield 0.045 g (24%) of desired product 2-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-1-{[2-(trifluoromethyl)benzoyl]amino}ethyl acetate (Ia-112), [M+1]=455.

reactant | N-{2-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]ethylidene}-2-(trifluoromethyl)benzamide | 0.16 g | ClC=1C(=NC=C(C1)C(F)(F)F)CC=NC(C1=C(C=CC=C1)C(F)(F)F)=O | C16H9ClF6N2O
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-[3-chloro-5-(trifluoromethyl)pyridin-2-yl]-1-{[2-(trifluoromethyl)benzoyl]amino}ethyl acetate | 0.045 g, 24% | C(C)(=O)OC(CC1=NC=C(C=C1Cl)C(F)(F)F)NC(C1=C(C=CC=C1)C(F)(F)F)=O | C18H13ClF6N2O3
